US07297698B2
Ethyl 2-methylpyrimidine-5-carboxylate
Into 25 ml of ether was suspended 762 mg of 60% NaH, and then 20 g of ethyl formate was added dropwise under ice-cooling. Then, 12 ml of an ether solution of 5.0 g of ethyl 3.3-diethoxypropanoate was added dropwise thereto. After 2 days of stirring at the same temperature, 2.50 g of acetamidine hydrochloride was added thereto, followed by 1 day of stirring at room temperature. Then, 5 ml of acetic acid and water were added to the reaction solution, followed by extraction with ethyl acetate. After the organic layer was dried over anhydrous sodium sulfate, the solvent was removed by evaporation and the resulting residue was subjected to silica gel column chromatography to obtain 2.93 g of the title compound from an eluate eluted with ethyl acetate-hexane (3:7, v/v).

reactant | NaH | 762 mg | [H-].[Na+]
reactant | ethyl formate | 20 g | C(=O)OCC | C3H6O2
reactant | ethyl 3.3-diethoxypropanoate | 5.0 g | C(C)OC(CC(=O)OCC)OCC | C9H18O4
reactant | acetamidine hydrochloride | 2.50 g | Cl.C(C)(=N)N
solvent | water | O | H2O
solvent | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
solvent | ether | 12 ml | CCOCC | C4H10O
solvent | ether | 25 ml | CCOCC | C4H10O
product | Ethyl 2-methylpyrimidine-5-carboxylate | 2.93 g | CC1=NC=C(C=N1)C(=O)OCC | C8H10N2O2
